US04650891
The first portion of the octadecylmagnesium bromide was cooled to 0° and cuprous cyanide (0.12 g 1.34 mmoles) was added with stirring. Then dichlorodiphenylsilane (1.95 ml, 9.27 mmoles) was added. The reaction mixture was stirred at 10° for 140 minutes. Gas chromatographic analysis showed that most of the dichlorodiphenylsilane had disappeared during the first hour of reaction. The mixture was then stirred at room temperature for about 16 hours (i.e. overnight). The reaction mixture was then filtered, quenched with water, and acidified slightly with HCl. After extraction with diethylether, drying (with MgSO4) and removal of solvent, a solid was obtained. Extraction with hot heptane and crystallization provided 4.96 g of dioctadecyldiphenylsilane. The yield was about 78%.

reactant | octadecylmagnesium bromide | C(CCCCCCCCCCCCCCCCC)[Mg]Br
reactant | dichlorodiphenylsilane | 9.27 mmoles, 1.95 ml | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C12H10Cl2Si
product | dioctadecyldiphenylsilane | 4.96 g, yield was about 78% | C(CCCCCCCCCCCCCCCCC)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)CCCCCCCCCCCCCCCCCC | C48H84Si
